US07846960B2
(3-Butoxy-5-hydroxymethyl-phenyl)-methanol
A solution of 5-Butoxy-isophthalic acid monomethyl ester (1.0 g, 4.0 mmol) in THF (20 mL) is treated with 2.0 M borane-dimethyl sulfide complex in hexane (10 mL, 20 mmol). The mixture is stirred at room temperature for 48 h. The mixture is quenched carefully with methanol (10 mL) and is concentrated to dryness. The residue is purified by flash chromatography to afford the title compound as a solid (0.78 g, 88%). LC-ES/MS m/e 211.3 (M+1).

reactant | 5-Butoxy-isophthalic acid monomethyl ester | 4.0 mmol, 1.0 g | COC(C1=CC(C(=O)O)=CC(=C1)OCCCC)=O | C13H16O5
reactant | hexane | 20 mmol, 10 mL | CCCCCC | C6H14
solvent | THF | 20 mL | C1CCOC1 | C4H8O
product | (3-Butoxy-5-hydroxymethyl-phenyl)-methanol | 0.78 g, 88% | C(CCC)OC=1C=C(C=C(C1)CO)CO | C12H18O3
